US07838674B2
1.a: 3-Chloro-7,8-dihydro-6H-isoquinolin-5-one oxime
3-Chloro-5,6,7,8-tetrahydro-isoquinoline (Chemische Berichte 1948, 81, 279) (8.82 g; 52.6 mmol) dissolved in THF (65 ml) is added under stirring at room temperature to a solution of KOtBu (11.78 g; 105.2 mmol) in THF (100 ml). The red turbid solution is stirred for 12 hours and then cooled to 0° C. tert-Butyl nitrite (18.7 ml; 157.8 mmol) is added dropwise, the reaction mixture is stirred at room temperature for 4 hours and poured on brine. The reaction mixture is extracted with ethyl acetate three times, the organic phases are combined, dried over Na2SO4 and evaporated to dryness, yielding the desired product as brownish crystals. 1H-NMR (400 MHz; DMSO-d6): 11.83 (s, 1H); 8.28 (s, 1H); 7.66 (s, 1H); 2.72 (m, 2H); 2.66 (m, 2H); 1.77 (m, 2H). MS (m/z) ES+: (197, MH+).

reactant | 3-Chloro-5,6,7,8-tetrahydro-isoquinoline | 52.6 mmol, 8.82 g | ClC=1N=CC=2CCCCC2C1 | C9H10ClN
reactant | KOtBu | 105.2 mmol, 11.78 g | CC(C)(C)[O-].[K+]
reactant | tert-Butyl nitrite | 157.8 mmol, 18.7 ml | N(=O)OC(C)(C)C | C4H9NO2
solvent | THF | 65 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-Chloro-7,8-dihydro-6H-isoquinolin-5-one oxime | ClC=1N=CC=2CCCC(C2C1)=NO | C9H9ClN2O
